US08309596B2
C) (S)-Pyrrolidine-2-carboxylic acid [2-(4-methoxy-phenyl)-ethyl]-amide
4N HCl solution in 41 ml of dioxane is added to a fine suspension of 16.78 g of (S)-2-[2-(4-Methoxy-phenyl)-ethylcarbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester in 40 ml of dioxane. After stirring under poor cooling with an ice-bath for 2.5 hours, solvent is evaporated, the residue obtained is cooled over night at 0° and resulting crystals are stirred with 150 ml of tert-butylmethylether, filtered and dried to yield the title compound.

reactant | HCl | 4N | Cl | ClH
reactant | (S)-2-[2-(4-Methoxy-phenyl)-ethylcarbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 16.78 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(NCCC1=CC=C(C=C1)OC)=O | C19H28N2O4
reactant | tert-butylmethylether | 150 ml | C(C)(C)(C)OC | C5H12O
solvent | dioxane | 41 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | (S)-Pyrrolidine-2-carboxylic acid [2-(4-methoxy-phenyl)-ethyl]-amide | COC1=CC=C(C=C1)CCNC(=O)[C@H]1NCCC1 | C14H20N2O2
